US07166746B2
lin 300 ml methanol 8.4 g (33.7 mmol) of trans-2-methoxy-4-(6-nitro-cyclohex-3-enyl)-phenol are solved. To this solution 500 mg of 10% Pd/C are added. The mixture is hydrogenated at room temperature for 6 hours. The mixture was then filtered through Filter Cel and evaporation of the filtrate in vacuum, yielding trans-2 methoxy-4-(2-nitro-cyclohexyl)-phenol as a light yellow solid.

reactant | methanol | 33.7 mmol, 300 ml, 8.4 g | CO | CH4O
reactant | trans-2-methoxy-4-(6-nitro-cyclohex-3-enyl)-phenol | COC1=C(C=CC(=C1)[C@@H]1CC=CC[C@H]1[N+](=O)[O-])O | C13H15NO4
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | trans-2 methoxy-4-(2-nitro-cyclohexyl)-phenol | COC1=C(C=CC(=C1)[C@H]1[C@@H](CCCC1)[N+](=O)[O-])O | C13H17NO4
